data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_522981_0,[C:1]([C:3]([H:14])([H:15])[H:18])([C:4]([H:16])([H:17])[H:19])(/[C:5]([C:2]([N:6]([H:10])[H:11])([H:12])[H:13])=[N:7]\[H:9])[H:8]>>[C:1]([C:3]([H:14])([H:15])[H:18])([C:4]([H:16])([H:17])[H:19])([C:5]1([H:13])[C:2]([N:6]([H:10])[H:11])([H:12])[N:7]1[H:9])[H:8],66.21003499998181
MR_146739_0,[C:1]([N:8]1[C:3]([C:4]([C:2]([H:14])([H:15])[H:16])=[O:6])([O:5][H:9])[N:7]1[H:10])([H:11])([H:12])[H:13]>>[C:1](/[N:8]=[N:7]/[C:3](=[C:4](/[C:2]([H:14])([H:15])[H:16])[O:6][H:10])[O:5][H:9])([H:11])([H:12])[H:13],62.3797750000216
MR_264780_0,[C:1]1([C:4]([H:11])([H:12])[H:13])([N:5]=[O:6])[C:2]([H:7])([H:8])[C:3]1([H:9])[H:10]>>[C:1]([C:2]([N:5][O:6])([H:7])[H:8])(=[C:3]([H:9])[H:10])[C:4]([H:11])([H:12])[H:13],70.3785175000155
MR_177492_0,[C:1](\[C:2]([C:3]([C:6](=[C:7]([H:18])[H:19])[H:17])([N:8]([H:10])[H:14])[H:9])([H:15])[H:16])(=[N:4]/[H:11])[N:5]([H:12])[H:13]>>[C:1]([C:2](/[C:3]([C:6](=[C:7]([H:18])[H:19])[H:17])=[N:8]/[H:14])([H:15])[H:16])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:9],64.80568999996052
MR_682033_0,[C:1]1([H:10])([H:11])[N:3]([C:2]([H:12])([H:13])[H:14])[C:4]([N:5]([H:8])[H:9])=[N:7][O:6]1>>[C:1]1([H:10])([H:11])[O:6][N:7]1/[C:4](=[N:3]/[C:2]([H:12])([H:13])[H:14])[N:5]([H:8])[H:9],62.60379249999104
MR_368504_0,[C:1](/[N:6]=[C:5](/[N:3](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]\[H:9])[H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:6](/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]\[H:9])/[C:5](=[N:3]/[H:8])[H:10])([H:11])([H:12])[H:13],50.40707500000224
MR_360459_0,[C:1]1([C:3]([H:14])([H:15])[H:16])([H:9])[C:2]([H:12])([H:13])[C:6]([C:4]([H:17])([H:18])[H:19])=[C:5]([N:7]([H:10])[H:11])[O:8]1>>[C:1]1([C:3]([H:14])([H:15])[H:16])([H:9])[C:2]([H:12])([H:13])[C:6]1([C:4]([H:17])([H:18])[H:19])[C:5]([N:7]([H:10])[H:11])=[O:8],45.13105500001828
MR_211144_1,[C:1]1([C:3]([H:12])([H:13])[H:14])([H:8])[C:2]([H:9])([H:10])[C:4]2([H:11])[N:6]1[N:5]=[N:7]2>>[C:1]1([C:3]([H:12])([H:13])[H:14])([H:8])[C:2]([H:9])([H:10])[C:4]([H:11])=[N:7][N:5]=[N:6]1,29.06956500001371
MR_133007_1,[C@@:1]([C:3]([H:17])([H:18])[H:19])([N:4](/[C:5]([N:6]([H:12])[H:13])=[N:8]\[C:2]([H:14])([H:15])[H:16])[H:10])([O:7][H:9])[H:11]>>[C@@:1]1([C:3]([H:17])([H:18])[H:19])([O:7][H:9])[N:4]([H:10])[C@@:5]1([N:6]([H:12])[H:13])[N:8]([C:2]([H:14])([H:15])[H:16])[H:11],71.40071500000289
MR_29027_1,[C:1](/[C:3]([C:2]([H:11])([H:12])[H:13])=[N:6]/[H:7])([C:4](=[C:5]([H:14])[H:15])[H:10])([H:8])[H:9]>>[C:1](=[C:3]([C:2]([H:11])([H:12])[H:13])[N:6]([C:4](=[C:5]([H:14])[H:15])[H:10])[H:7])([H:8])[H:9],72.98515249999753
MR_622940_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:6]2([C:2]([H:11])([H:12])[O:7][N:5]2[O:8][H:10])[O:9]1>>[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:2]([H:11])([H:12])[O:7][N:5]([O:8][H:10])[C:6]1=[O:9],43.63258499998494
MR_243567_1,[C:1](/[C:6](=[C:4](\[N:2]([C:3]([N:5]([H:11])[H:12])=[O:8])[H:10])[O:7][H:9])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]([C:3]([N:5]([H:11])[H:12])=[O:8])(/[C:4](=[N:2]/[H:10])[O:7][H:9])[H:13])([H:14])([H:15])[H:16],59.51398250001617
MR_504581_0,[C:1](/[N:6]=[C:4](/[O:5][C:2]([N:3]([H:8])[H:9])=[O:7])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:6]([C:2]([N:3]([H:8])[H:9])=[O:7])[C:4](=[O:5])[H:10])([H:11])([H:12])[H:13],29.80499499997606
MR_395402_0,[N:1](/[C:2](=[C:4](\[N:3]([H:11])[H:12])[H:13])[O:8][H:10])([C:5](=[C:6]([H:15])[H:16])[H:14])[O:7][H:9]>>[N:1](=[C:2](\[C@@:4]([N:3]([H:11])[H:12])([C:5](=[C:6]([H:15])[H:16])[H:14])[H:13])[O:8][H:10])\[O:7][H:9],59.69846750001409
MR_312377_1,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])([C:7]([N:6]([C:2]([C:5]([H:21])([H:22])[H:23])([H:13])[H:14])[O:8][H:11])=[O:10])[O:9][H:12]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])([C:7]([C:2]([C:5]([H:21])([H:22])[H:23])([H:13])[H:14])([N:6]=[O:8])[O:10][H:11])[O:9][H:12],60.44644750005176
MR_106597_2,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3](=[C:4](\[O:7][H:10])[H:12])[O:5][H:8])([O:6][H:9])[H:11]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([H:11])[C:3]([O:5][H:8])([O:6][H:9])[C:4]1([O:7][H:10])[H:12],39.53249999999258
MR_430509_2,[C:1]([C:2](=[C:3]([N:7]([H:16])[H:17])[N:8]([H:18])[H:19])[N:6]([H:14])[H:15])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:9]>>[C:1]([C:3](=[C:2]([N:6]([H:14])[H:15])[N:8]([H:18])[H:19])[N:7]([H:16])[H:17])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[H:9],52.23498249995288
MR_138912_0,[C:1]([C@@:2]1([H:11])[C@@:3]([C:7]([H:23])([H:24])[H:25])([H:12])[C@@:4]1([N:8]([H:14])[H:15])[H:13])([C:5]([H:17])([H:18])[H:19])([C:6]([H:20])([H:21])[H:22])[C:9](=[O:10])[H:16]>>[C:1]1([C:5]([H:17])([H:18])[H:19])([C:6]([H:20])([H:21])[H:22])[C:2]([C:4]([N:8]([H:14])[H:15])([C:9](=[O:10])[H:16])[H:13])([H:11])[C:3]1([C:7]([H:23])([H:24])[H:25])[H:12],64.86467500002561
MR_209620_0,[C:1](/[C:4](=[N:7]\[C:2]([O:5][H:8])=[N:6]\[N:3]([H:9])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1([H:11])[N:6]([N:3]([H:9])[H:10])[C:2]([O:5][H:8])=[N:7]1)([H:12])([H:13])[H:14],36.05803249999013
